*	pulse width modulator
*	
*	Parameters:
*	f : frequency of generated PWM signal
*	Vhigh : High level of generated PWM signal
*	Vlow : Low level of generated PWM signal
*	Range : range in which the input signal may vary, 0V gives 0% duty-cycle, 
*		<Range> V gives 100% duty-cycle
*		When the input signal goes outside Range, there is no problem only the duty-cycle 
*		saturates to 0% or 100%
.subckt pwm IN OUT GND
Bout GND OUT I=if(((Time-floor(Time*f)/f)*Range*f) < v(IN,GND), Vhigh, Vlow)
Rout OUT GND 1
.ends